US04162246
2,2-Bis{4-[2-dodecyloxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 34)
1.5 g of sodium hydride was added, with stirring, to a solution of 8.2 g of 2,2-bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane, prepared as described in Example 1, in 150 ml of N,N-dimethylformamide, and the mixture was stirred at 50°-60° C. for 2 hours. 10.0 g of n-dodecyl bromide were then added dropwise to the mixture and the whole mixture was heated at 50°-60° C. for two hours and then at 70°-80° C. for a further 4 hours, stirring all the time. After completion of the reaction, the reaction mixture was condensed by evaporation under reduced pressure and then 200 ml of benzene were added to the resulting residue. This solution was then washed with, in turn, a 2% w/w aqueous solution of sodium carbonate and water. The washed solution was dried over anhydrous potassium carbonate and then the solvent was removed by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel eluted with a 32:4:5:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine, giving the desired Compound No. 34 as a colourless, viscous liquid, having an Rf value of 0.53 on thin-layer chromatography on silica gel using a 20:2:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine as developing solvent.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 2,2-bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | 8.2 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C45H66N6O8
reactant | n-dodecyl bromide | 10.0 g | C(CCCCCCCCCCC)Br | C12H25Br
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2,2-Bis{4-[2-dodecyloxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | C(CCCCCCCCCCC)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)OCCCCCCCCCCCC)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C69H114N6O8
